US08039490B2
1-[4-(2,4-Dichloro-benzoyl)-piperidin-1-yl]-ethanone
Acetylisonipecotoyl chloride (8 g, 42 mmol) was solved in dichlorobenzene and aluminium chloride (11.2 gr, 894 mmol) was added portionwise. The mixture was refluxed at 90° C. for 4 h after complexion of the reaction. Ice/water was added to the mixture that was extracted with dichloromethane. After chromatography from heptane to EtOAc the product was obtained as a yellow oil (6.3 g, 50%). MS (m/e): 300.2 (M+H+)

reactant | Acetylisonipecotoyl chloride | 42 mmol, 8 g | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
reactant | aluminium chloride | 894 mmol, 11.2 gr | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichlorobenzene | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
product | 1-[4-(2,4-Dichloro-benzoyl)-piperidin-1-yl]-ethanone | 6.3 g, 50% | ClC1=C(C(=O)C2CCN(CC2)C(C)=O)C=CC(=C1)Cl | C14H15Cl2NO2
